US05235068
In 50 ml of dichloroethane were dissolved 7.31 g (0.05 mole) of 6-methoxy hexanoic acid and 14.39 g (0.06 mole) of dichloroacetic anhydride. To the resulting solution were added 7.93 g (0.065 mole) of methylenedioxybenzene and 0.71 g of boron trifluoridediethyl ether complex and the resulting mixture was then stirred at 70° C. for 6 hours. After completion of the reaction, the reaction solution was cooled and washed with 5% aqueous sodium carbonate solution and water in this order. The organic layer was concentrated under reduced pressure to obtain 11.2 g of 4-(6-methoxyhexanoyl)-1,2-methylenedioxybenzene.

reactant | 6-methoxy hexanoic acid | 0.05 mole, 7.31 g | COCCCCCC(=O)O | C7H14O3
reactant | dichloroacetic anhydride | 0.06 mole, 14.39 g | ClC(C(=O)OC(C(Cl)Cl)=O)Cl | C4H2Cl4O3
reactant | methylenedioxybenzene | 0.065 mole, 7.93 g | C1OC2=C(C=CC=C2)O1 | C7H6O2
solvent | dichloroethane | 50 ml | ClC(C)Cl | C2H4Cl2
product | 4-(6-methoxyhexanoyl)-1,2-methylenedioxybenzene | 11.2 g | COCCCCCC(=O)C1=CC2=C(C=C1)OCO2 | C14H18O4
